US07618990B2
A mixture of 2-bromo-4-(4-bromophenyl)-1,3-thiazole (2.9 g, 9.09 mmol), prepared in step 2 of Example 1, and (R)-(−)-2-amino-pentanol (2.82 g, 27.2 mmol) was stirred under nitrogen at 150° C. for 18 h. After cooling to room temperature, the residue was taken up in methylene chloride, applied to a Biotage FLASH 40+™ cartridge and the methylene chloride allowed to evaporate. Purification of the residue on the samplet on a Horizon™ Flash Collector (the Biotage FLASH 40+™ cartridge) using a linear gradient of 5% ethyl acetate-hexane to 100% ethyl acetate gave (2R)-2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}pentan-1-ol (2.56 g, 83%) as a yellow solid, mp 63-65° C.; MS (ESI) m/z 341 [M+H]+.

reactant | 2-bromo-4-(4-bromophenyl)-1,3-thiazole | 9.09 mmol, 2.9 g | BrC=1SC=C(N1)C1=CC=C(C=C1)Br | C9H5Br2NS
reactant | (R)-(−)-2-amino-pentanol | 27.2 mmol, 2.82 g | N[C@@H](CO)CCC | C5H13NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2R)-2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}pentan-1-ol | 2.56 g, 83% | BrC1=CC=C(C=C1)C=1N=C(SC1)N[C@@H](CO)CCC | C14H17BrN2OS
